US05624935
3-Amino-2-methylaminopyridin
A procedure similar to that described in Example 6 was repeated, except that 5.00 g of 2-methylamino-3nitropyridine (prepared as described in Preparation 104) were hydrogenated in 80 ml of 1,4-dioxane in the presence of 1.00 g of 10 % w/w palladium-on-charcoal. After working up the product as described in Example 6, 3.87 g of the title compound, melting at 90°-92° C. were obtained.

reactant | 2-methylamino-3nitropyridine | 5.00 g | CNC1=NC=CC=C1[N+](=O)[O-] | C6H7N3O2
solvent | 1,4-dioxane | 80 ml | O1CCOCC1 | C4H8O2
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 3-Amino-2-methylaminopyridin | 3.87 g | NC=1C(=NC=CC1)NC | C6H9N3
